US08003006B2
37 g of 2,3-difluoro-1-(trans-4-ethylcyclohexyl)methoxybenzene was dissolved in 222 mL of THF, and 59.9 mL of butyllithium (2.67 M hexane solution) was added dropwise thereto at an internal temperature of −40° C. or lower. Then, further stirring was continued for 30 min. To this solution, 18.1 g of trimethyl borate was added dropwise at an internal temperature of −40° C. or lower, and then the temperature was increased to 0° C. Then, 24.7 mL of 30% hydrogen peroxide solution was added dropwise for 5 min, and the stirring was continued for 3 hours. Water and toluene were added thereto, and the organic layer was fractioned while the aqueous layer was extracted with toluene. The organic layers were combined and washed with water, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography, to thereby obtain 20 g of 2,3-difluoro-4-(trans-4-ethylcyclohexyl)methoxyphenol.

reactant | 2,3-difluoro-1-(trans-4-ethylcyclohexyl)methoxybenzene | 37 g | FC1=C(C=CC=C1F)OC[C@@H]1CC[C@H](CC1)CC | C15H20F2O
reactant | butyllithium | 2.67 M, 59.9 mL | C(CCC)[Li]
reactant | trimethyl borate | 18.1 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 24.7 mL | OO | H2O2
solvent | THF | 222 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 2,3-difluoro-4-(trans-4-ethylcyclohexyl)methoxyphenol | 20 g | FC1=C(C=CC(=C1F)OC[C@@H]1CC[C@H](CC1)CC)O | C15H20F2O2
